US06756385B2
This reaction was carried out using the procedure for Preparation 1 with cyclopentyl amine and 1,4-dinitroimidazole to afford 205 mg (75% yield) of 1-cyclopentyl-4-nitro-1H-imidazole; 1H NMR (400 MHz, CDCl3) δ7.77 (s, 1H), 7.45 (s, 1H), 4.49 (m, 1H), 2.25 (m, 2H), 2.0-1.7 (m, 6H); MS (AP/Cl): 182.2 (M+H)+.

reactant | cyclopentyl amine | C1(CCCC1)N | C5H11N
reactant | 1,4-dinitroimidazole | [N+](=O)([O-])N1C=NC(=C1)[N+](=O)[O-] | C3H2N4O4
product | 1-cyclopentyl-4-nitro-1H-imidazole | 205 mg, 75% yield | C1(CCCC1)N1C=NC(=C1)[N+](=O)[O-] | C8H11N3O2
